US08754242B2
A mixture of (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione (510 mg, 1.8 mmol), vinyl iodide (280 mg, 1.8 mmol), palladium acetate (20 mg, 0.09 mmol), sodium formate (454 mg, 5.4 mmol) and tetrabuylammonium chloride (500 mg, 1.8 mmol) in dry N,N-dimethylformamide (15 ml) are heated at 150° C. for 20 minutes under microwave irradiation. The mixture is cooled to room temperature and partitioned between water and ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give (1RS,2SR,6RS,7SR,8RS)-4-(2,4,6-trimethylphenyl)-8-vinyl-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | 1.8 mmol, 510 mg | CC1=C(C(=CC(=C1)C)C)C1C(C2C3C=CC(C2C1=O)O3)=O | C18H18O3
reactant | vinyl iodide | 1.8 mmol, 280 mg | C(=C)I | C2H3I
reactant | sodium formate | 5.4 mmol, 454 mg | C(=O)[O-].[Na+]
catalyst | tetrabuylammonium chloride | 1.8 mmol, 500 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.09 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1RS,2SR,6RS,7SR,8RS)-4-(2,4,6-trimethylphenyl)-8-vinyl-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | CC1=C(C(=CC(=C1)C)C)C1C(C2C3CC(C(C2C1=O)O3)C=C)=O | C20H22O3
